US08629138B2
A mixture of (R)-3-((S)-1-(4-bromophenyl)ethyl)-6-(4-fluorophenyl)-6-(3-hydroxypropyl)-1,3-oxazinan-2-one (520 mg, 1.2 mmol) and 6-aminopyridin-3-ylboronic acid (280 mg, 1.44 mmol), Pd(Ph3P)2Cl2 (100 mg), and aq Cs2CO3 solution (3 mL, 2M) in 1,4-dioxane (20 mL) was stirred and heated to reflux for 2 h. The organic phase was separated, and concentrated to give crude product, which was purified by preparative TLC to give (R)-3-((S)-1-(4-(6-aminopyridin-3-yl)phenyl)ethyl)-6-(4-fluorophenyl)-6-(3-hydroxy propyl)-1,3-oxazinan-2-one. (400 mg, 74%).

reactant | (R)-3-((S)-1-(4-bromophenyl)ethyl)-6-(4-fluorophenyl)-6-(3-hydroxypropyl)-1,3-oxazinan-2-one | 1.2 mmol, 520 mg | BrC1=CC=C(C=C1)[C@H](C)N1C(O[C@@](CC1)(CCCO)C1=CC=C(C=C1)F)=O | C21H23BrFNO3
reactant | 6-aminopyridin-3-ylboronic acid | 1.44 mmol, 280 mg | NC1=CC=C(C=N1)B(O)O | C5H7BN2O2
reactant | Cs2CO3 | 2M, 3 mL | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(Ph3P)2Cl2 | 100 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (R)-3-((S)-1-(4-(6-aminopyridin-3-yl)phenyl)ethyl)-6-(4-fluorophenyl)-6-(3-hydroxy propyl)-1,3-oxazinan-2-one | NC1=CC=C(C=N1)C1=CC=C(C=C1)[C@H](C)N1C(O[C@@](CC1)(CCCO)C1=CC=C(C=C1)F)=O | C26H28FN3O3
